Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][C:5]=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[H:6],4.93981617587
[H:1][C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:3][C:4][H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.688818215
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[O:1],8.02853372765
[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:3](=[O:4])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.67709739744
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],-0.58485110142
[H:1][C:3][C:8]([H:9])([H:10])[C:11][C:12]([C:2][C:4]([H:5])([H:6])[H:7])([H:13])[H:14]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]1([H:13])[H:14],-8.271624001080001
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.32087373166
[C:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[C:4]([H:5])[O:6][H:7]>>[C:1]#[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.44711876366
[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:14],4.686764124780001
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]#[C:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:5],4.33500422964
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9],4.5461897680900005
[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.80189092897
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.82951232948
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])[O:7][C:8]=[C:9]([H:10])[H:11].[H:6],2.92948159705
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4],3.71910519973
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.41761693682
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.59236383681
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.40922826337
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:3][H:4],4.0971366942900005
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4],6.75003142059
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],0.90039652669
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.1516604515200002
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],6.89882155036
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2]#[C:3][H:4],4.20609483946
[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]1>>[H:1][O:2][C:3]#[C:9][C:4][O:5][C:6]([H:7])[H:8],0.6203807301609999
[C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],-3.5141851995599995
[C:3](#[C:4][O:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]>>[O:1]=[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])([H:8])[H:9],-1.10203224416
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[C:7]([H:8])#[C:9][O:10][H:11].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],0.30307407919
